US07704996B2
C-(1-methyl-4-phenylpiperidin-4-yl)methylamine dihydrochloride
To a solution of LAH (7.5 mmol) in THF (10 mL) is added dropwise conc. H2SO4 (3.8 mmol) at 0° C. After stirred at 0° C. for 0.5 h, 1-methyl-4-phenylpiperidine-4-carbonitrile hydrochloride (2.5 mmol) is added at 0° C. The reaction mixture is stirred at 60° C. for 6 h. After cooled down to 0° C., the reaction is quenched by the addition of Na2SO4-10H2O. The resulting mixture is filtered through celite, and the filtrate is concentrated in vacuo. The residue is suspended in ether and treated with HCl in 1,4-dioxane. The resulting white solid is collected by filtration to give the title compound, which is directly used for the next reaction without further purification.

reactant | LAH | 7.5 mmol | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | H2SO4 | 3.8 mmol | OS(=O)(=O)O | H2O4S
reactant | 1-methyl-4-phenylpiperidine-4-carbonitrile hydrochloride | 2.5 mmol | Cl.CN1CCC(CC1)(C#N)C1=CC=CC=C1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | C-(1-methyl-4-phenylpiperidin-4-yl)methylamine dihydrochloride | Cl.Cl.CN1CCC(CC1)(C1=CC=CC=C1)CN | InChI=1S/C13H20N2.2ClH/c1-15-9-7-13(11-14,8-10-15)12-5-3-2-4-6-12;;/h2-6H,7-11,14H2,1H3;2*1H
